reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1](=[C:2]=[O:3])[H:9].[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])[H:10]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],34.28619291837909
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:9])[H:11])([O+:5]=[C-:4][C:6]#[C:7][H:15])([H:8])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],52.5552980154082
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O+:5]=[C:4]([C:3]([H:11])([H:12])[H:13])[H:14])=[C:6]=[N-:7])([H:8])([H:9])[H:10],90.91810344274299
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6][O:7][H:10])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],32.67412183239609
[C-:5]#[O+:6].[C:1](/[C:2](=[N:3]\[C:4]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9].[H:10][H:15]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],45.163776666173874
[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7]>>[C-:4]#[O+:5].[N:1]([C:2][O:3][H:8])([H:6])[H:7],56.9154007549467
[N:1]([C-:2]=[O+:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],52.24885908477851
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]=[C:3]=[O:4])([H:8])([H:9])[H:10].[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])([H:11])[H:12],80.8583608150571
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])/[N:5]=[C:6](\[O:7][H:13])[H:18])[H:12])([H:8])([H:9])[H:10].[H:11][H:17],100.60921788131901
[C:1]1([H:7])([H:8])[C:2][C@@:3]2([H:10])[C:4]([H:11])([H:12])[C@:5]1([H:13])[N:6]2[H:9]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23,8.563213212220418
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])[H:11])([H:9])[H:10].[H:8][H:12],114.08960466655701
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C@:2]1([H:10])[O:3][C@:4]1([C:5]#[C:6][H:11])[H:9])([H:7])[H:8],104.024078745439
[N:1]1([H:6])[C:2]([H:7])([H:8])[C:3]#[N+:4][N-:5]1>>[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1,4.63692434616199
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:18])([H:15])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],78.85403682325621
[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8]>>[N:1](=[c:2]1/[n:3]([H:8])[c:4]([H:9])[n:5][o:6]1)\[H:7],59.272513699973096
[O+:1](=[C-:2][H:7])[C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],45.38536845649759
[N:1](=[C:2](/[O:3][H:7])[C:4]#[C:5][H:8])\[H:6]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7],31.1891261033744
[C:1](/[C:2](=[N:3]\[O:4][H:10])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:12]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],78.1588418793874
[C-:2](=[O+:3][H:12])[C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],29.26061126900909
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C-:3]=[O+:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],81.467085810856
[C:1]([C@:2]1([H:10])[C:3]([H:12])=[C:4]([O:5][H:11])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],61.1869039685236
[C:1]1([H:7])([H:11])[C:2][C:3]([H:8])([H:9])[N:4]2[C@@:5]1([H:10])[C:6]2([H:12])[H:13]>>[C:1](#[C:2][C:3]([N:4]1[C:5]([H:10])([H:11])[C:6]1([H:12])[H:13])([H:8])[H:9])[H:7],41.09111457526181
[O:1]=[C:2]([C:3]([N+:5]#[C-:4])([H:7])[H:8])[H:6]>>[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],38.9225118479625
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:4](=[O:5])([H:10])[H:11].[C:6](#[N:7])[H:12].[N:1]([C:2](=[O:3])[H:13])([H:8])[H:9],84.5968335611174
[C:1]([C@:2]1([H:10])[C@@:3]([C:5]#[N:6])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],65.0953474995249
